US06414149B1
Step A: 6-Thiophen-3-yl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
A mixture of bis(benzonitrile)palladium(II) chloride (30 mg, 0.079 mmol) and 1,4-bis(diphenylphosphino)butane (33.6 mg, 0.079 mmol) in toluene (3 mL) was stirred at room temperature for 20 min. To this mixture was added 6-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (300 mg, 0.79 mmol, Synth. Commun. 1995, 25, 3255), thiophene-3-boronic acid (131 mg, 1.02 mmol), 1 M aqueous sodium carbonate (1.57 mL, 1.57 mmol), and ethanol (2 mL). This dark mixture was heated to reflux with stirring under nitrogen overnight, cooled to room temperature, diluted with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate (4×). The combined organic extracts were dried over sodium sulfate, filtered through Celite, evaporated, and purified by flash column chromatography (hexanes→5% ethyl acetate/hexanes) to give 252 mg (100%) of the title compound of Example 248, Step A as a pale yellow waxy solid. 1H NMR (CDCl3, 250 MHz) δ7.47-7.38 (c, 5H), 7.14 (d, 1H), 4.60 (s, 2H), 3.72-3.64 (c, 2H), 2.95-2.82 (c, 2H), 1.52 (s, 9H); MS (TS) 316 (MH+).

reactant | 6-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.79 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OS(=O)(=O)C(F)(F)F | C15H18F3NO5S
reactant | thiophene-3-boronic acid | 1.02 mmol, 131 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 1.57 mmol, 1 M, 1.57 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | bis(benzonitrile)palladium(II) chloride | 0.079 mmol, 30 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | 1,4-bis(diphenylphosphino)butane | 0.079 mmol, 33.6 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
product | 6-Thiophen-3-yl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 252 mg, 100% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C1=CSC=C1 | C18H21NO2S
